US09260413B2
To a solution of 625 mg (1.96 mmol) 2-[4-chloro-3-(trifluoromethyl)phenyl]-5-methoxy-3-methylpyrimidin-4(3H)-one in 25 ml CH2Cl2 was added 5.88 ml (5.88 mmol) of a 1 M solution of BBr3 in CH2Cl2. The reaction mixture was stirred for 1 h, then quenched with 25 ml MeOH, and concentrated in vacuo. Purification by HPLC gave 418 mg (70% yield) of 2-[4-chloro-3-(trifluoromethyl)phenyl]-5-hydroxy-3-methylpyrimidin-4(3H)-one. 1H NMR δ (ppm)(CDC3): 7.86 (1 H, d, J=1.95 Hz), 7.73 (1 H, s), 7.67-7.61 (2 H, m), 3.54 (3 H, s). HRMS (ESI positive) calc (M+H)+=305.0299. Found 305.0300.

reactant | 2-[4-chloro-3-(trifluoromethyl)phenyl]-5-methoxy-3-methylpyrimidin-4(3H)-one | 1.96 mmol, 625 mg | ClC1=C(C=C(C=C1)C1=NC=C(C(N1C)=O)OC)C(F)(F)F | C13H10ClF3N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-chloro-3-(trifluoromethyl)phenyl]-5-hydroxy-3-methylpyrimidin-4(3H)-one | 418 mg, 70% yield | ClC1=C(C=C(C=C1)C1=NC=C(C(N1C)=O)O)C(F)(F)F | C12H8ClF3N2O2
